US07700641B2
B. Synthesis of 3-(4,5-difluoro-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 2C, and making non-critical variations to replace 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one with 3-(4,5-difluoro-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one, the title compound was obtained (98%): 1H NMR (300 MHz, CDCl3) δ 7.46-7.19 (m, 3H), 7.03-6.68 (m, 3H), 5.03 (s, 1H), 3.76-3.67 (m, 2H), 1.76-1.62 (m, 2H), 1.40-1.28 (m, 4H), 0.87 (t, 3H); MS (ES+) m/z 332 (M+1).

reactant | 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(C1=CC2=C(OCO2)C=C1O)O)=O | C20H19NO5
reactant | 3-(4,5-difluoro-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one | FC1=CC(=C(C=C1F)C1(C(N(C2=CC=CC=C12)CCCCC)=O)O)O | C19H19F2NO3
product | 3-(4,5-difluoro-2-hydroxyphenyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | FC1=CC(=C(C=C1F)C1C(N(C2=CC=CC=C12)CCCCC)=O)O | C19H19F2NO2
